US05260285
Methyl 2-cyclopropyl-7-methyl-3-[(-2'-(((trifluoromethyl)sulfonyl)amino)biphen-4-yl)methyl]pyrazolo[1,5-a]pyrimidine-5-carboxylate
To a solution of 273 mg 2-cyclopropyl-7-methyl-3-[(-2'-(((trifluoromethyl)sulfonyl)amino)biphen-4-yl)methyl]pyrazolo[1,5-a]pyrimidine-5-carboxylic acid in 150 mL methanol was added 5 g Amberlyst-15. The mixture was heated to 60° C. for 9 hours (overnight generally preferred). After cooling to room temperature, 5 mL pyridine was added and the mixture was stirred for 30 minutes. The mixture was filtered, was stripped of solvent in vacuo, was stripped from toluene, then was chromatographed on silica gel under medium pressure using 1/1/98 HOAc/MeOH/CH2Cl2 to give 91 mg of the title compound (32% yield) as a yellow solid. Rf 0.58 in 1/3/96 HOAc/MeOH/CH2Cl2, visualized by white light, UV, iodine, and ammonium molybdate/ceric sulfate stain.

reactant | 2-cyclopropyl-7-methyl-3-[(-2'-(((trifluoromethyl)sulfonyl)amino)biphen-4-yl)methyl]pyrazolo[1,5-a]pyrimidine-5-carboxylic acid | 273 mg | C1(CC1)C1=NN2C(N=C(C=C2C)C(=O)O)=C1CC1=CC=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)C(F)(F)F | C25H21F3N4O4S
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | methanol | 150 mL | CO | CH4O
product | Methyl 2-cyclopropyl-7-methyl-3-[(-2'-(((trifluoromethyl)sulfonyl)amino)biphen-4-yl)methyl]pyrazolo[1,5-a]pyrimidine-5-carboxylate | 91 mg, 32% yield | C1(CC1)C1=NN2C(N=C(C=C2C)C(=O)OC)=C1CC1=CC=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)C(F)(F)F | C26H23F3N4O4S
